US04324919
0.52 kg PH3 and 2.6 kg butene-(1) were reacted as described in Example 7 to give an about 50% solution of tri-n-butyl-phosphine in toluene. Introduced thereinto under slight overpressure were 16.2 kg butene-(1) and 2.82 kg PH3. The whole was heated to about 70° C. and initiator solution was metered thereinto. The exothermal reaction made the temperature increase to 106° C. and the pressure to 23 bars. Altogether 3 l initiator solution was added within 3 hours. The pressure was then found to have dropped to 5 bars (at 120° C.). The whole was allowed to cool, a specimen was taken and analyzed gas-chromatographically. It was an about 67% tributylphosphine solution in toluene, corresponding to a conversion rate of more than 95%, based on butene and PH3.

reactant | PH3 | 0.52 kg | P | H3P
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | tri-n-butyl-phosphine | C(CCC)P(CCCC)CCCC | C12H27P
